US06476045B2
1-{3-[5-Chloro-2-(4-chlorophenyl)-1H-indol-3-yl]-1-oxopropyl}-4-(2-methoxyphenyl)piperazine
Prepared from 5-chloro-2-(4-chlorophenyl)-1H-indole-3-propanoic acid (Description 30) and 1-(2-methoxyphenyl)piperazine according to the method of Description 32. 1H NMR (250 MHz, CDCl3) δ 8.04 (1H, br s), 7.61 (1H, d, J 1.8 Hz), 7.48 (4H, m), 7.29 (1H, d, J 8.5 Hz), 7.17 (1H, dd, J 8.5, 1.8 Hz), 7.02 (1H, m), 7.00-6.82 (3H, m), 3.86 (3H, s), 3.78 (2H, t, J 4.9 Hz), 3.46 (2H, t, J 4.9 Hz), 3.24 (2H, t, J 7.9 Hz), 2.94 (2H, t, J 4.9 Hz), 2.79 (2H, t, J 4.9 Hz), and 2.68 (2H, t, J 7.9 Hz). m/z (ES+) 508, 510 (M+1).

reactant | 5-chloro-2-(4-chlorophenyl)-1H-indole-3-propanoic acid | ClC=1C=C2C(=C(NC2=CC1)C1=CC=C(C=C1)Cl)CCC(=O)O | C17H13Cl2NO2
reactant | 1-(2-methoxyphenyl)piperazine | COC1=C(C=CC=C1)N1CCNCC1 | C11H16N2O
product | 1-{3-[5-Chloro-2-(4-chlorophenyl)-1H-indol-3-yl]-1-oxopropyl}-4-(2-methoxyphenyl)piperazine | ClC=1C=C2C(=C(NC2=CC1)C1=CC=C(C=C1)Cl)CCC(=O)N1CCN(CC1)C1=C(C=CC=C1)OC | C28H27Cl2N3O2
